US06335353B1
2-Methoxymethyl-3-benzyloxy-6-methyl-pyran-4(1H)-one
To a suspension of sodium hydride (0.48 g, 20 mmol, 2 eq.) in 30 ml dry DMF was added 2-hydroxymethyl-3-benzyloxy-6-methyl-pyran-4(1H)-one (2.46 g, 10 mmol, 1 eq.) followed by dropwise addition of iodomethane (4.26 g, 30 mmol, 3 eq.) at 0° C. under nitrogen. After stirring for 30 minutes at this temperature, the reaction mixture was poured into ice cold water (100 ml) and extracted with dichloromethane (3×50 ml). The combined organic fractions were dried over anhydrous sodium sulphate, filtered and concentrated in vacuo to yield the crude product (2.6 g,˜100%) as an orange oil which solidified on cooling. Recrystallisation from CH2Cl2/Pet. ether 40/60 afforded the pure product (2.35 g, 90%) as a white crystalline solid. m.p. 30-32° C.

reactant | sodium hydride | 20 mmol, 0.48 g, 2 eq. | [H-].[Na+]
reactant | 2-hydroxymethyl-3-benzyloxy-6-methyl-pyran-4(1H)-one | 10 mmol, 2.46 g, 1 eq. | OCC=1OC(=CC(C1OCC1=CC=CC=C1)=O)C | C14H14O4
reactant | iodomethane | 30 mmol, 4.26 g, 3 eq. | IC | CH3I
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-Methoxymethyl-3-benzyloxy-6-methyl-pyran-4(1H)-one | 2.35 g, 90% | COCC=1OC(=CC(C1OCC1=CC=CC=C1)=O)C | C15H16O4
